US06495542B1
To a suspension of methyl 4-(4-bromo-5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl-2-methoxybenzoate (240 mg) and potassium carbonate (767 mg) in acetonitrile (8 ml) was added acetamidine hydrochloride (472 mg) and the mixture was heated at 90° C. for 3 hours. After cooling, the reaction mixture was diluted with chloroform and washed with water. The organic layer was dried over sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by column chromatography (SiO2; 30 g, ethyl acetate) to give methyl 4-(2-methyl-1,4,5,6-tetrahydro-imidazo[4,5-d][1]benzazepin-6-yl)carbonyl-2-methoxybenzoate (95 mg).

reactant | methyl 4-(4-bromo-5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl-2-methoxybenzoate | 240 mg | BrC1CCN(C2=C(C1=O)C=CC=C2)C(=O)C2=CC(=C(C(=O)OC)C=C2)OC | C20H18BrNO5
reactant | potassium carbonate | 767 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetamidine hydrochloride | 472 mg | Cl.C(C)(=N)N
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-(2-methyl-1,4,5,6-tetrahydro-imidazo[4,5-d][1]benzazepin-6-yl)carbonyl-2-methoxybenzoate | 95 mg | CC=1NC2=C(CCN(C3=C2C=CC=C3)C(=O)C3=CC(=C(C(=O)OC)C=C3)OC)N1 | C22H21N3O4
